US05922720
D1. 2-{[[4-(3-Chloropropylthio)-3-methyl-2-pyridinyl]-methyl]thio}-1H-imidazo[4.5-b]pyridine dihydrochloride
According to the procedure described in Example C1., the reaction of 2-mercapto-1H-imidazo[4,5-b]pyridine with 2-chloromethyl-4-(3-chloropropylthio)-3-methylpyridine hydrochloride gives the title compound as a colorless powder; m.p. 186-188° C.; yield: 88% of theory.

reactant | 2-mercapto-1H-imidazo[4,5-b]pyridine | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
reactant | 2-chloromethyl-4-(3-chloropropylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCCCCl
product | 2-{[[4-(3-Chloropropylthio)-3-methyl-2-pyridinyl]-methyl]thio}-1H-imidazo[4.5-b]pyridine dihydrochloride | yield: 88% | Cl.Cl.ClCCCSC1=C(C(=NC=C1)CSC=1NC=2C(=NC=CC2)N1)C | InChI=1S/C16H17ClN4S2.2ClH/c1-11-13(18-8-5-14(11)22-9-3-6-17)10-23-16-20-12-4-2-7-19-15(12)21-16;;/h2,4-5,7-8H,3,6,9-10H2,1H3,(H,19,20,21);2*1H
